US07989438B2
Step 7: methyl (7R)-7-[{2-[(tert-butoxycarbonyl)amino]ethyl}(methyl)amino]-14-cyclohexyl-4-(piperidin-1-ylmethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
The compound was prepared in analogy to Example 1, Step 6 from methyl (7R)-14-cyclohexyl-7-(methylamino)-4-(piperidin-1-ylmethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate and tert-butyl (2-oxoethyl)carbamate. The compound was used without further purification. (ES+) m/z 659 (M+H)+.

reactant | methyl (7R)-14-cyclohexyl-7-(methylamino)-4-(piperidin-1-ylmethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC=C3CN3CCCCC3)NC)C(=O)OC | C32H41N3O3
reactant | tert-butyl (2-oxoethyl)carbamate | O=CCNC(OC(C)(C)C)=O | C7H13NO3
product | methyl (7R)-7-[{2-[(tert-butoxycarbonyl)amino]ethyl}(methyl)amino]-14-cyclohexyl-4-(piperidin-1-ylmethyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)NCCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2CN2CCCCC2)C | C39H54N4O5
